US06110937
The 3-(4-bromo-2,6-dimethylphenoxymethyl)-1 -methylpiperidine was treated with 1N hydrochloric acid in ether, and the precipitated salt was recrystallized from acetonitrile/tert-butyl methyl ether to yield 3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride, m.p. 180.9-183.5° C.

reactant | 3-(4-bromo-2,6-dimethylphenoxymethyl)-1 -methylpiperidine | BrC1=CC(=C(OCC2CN(CCC2)C)C(=C1)C)C | C15H22BrNO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride | Cl.BrC1=CC(=C(OCC2CN(CCC2)C)C(=C1)C)C | InChI=1S/C15H22BrNO.ClH/c1-11-7-14(16)8-12(2)15(11)18-10-13-5-4-6-17(3)9-13;/h7-8,13H,4-6,9-10H2,1-3H3;1H
